Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
amnesia, transfer for troponin elevation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ gentleman from ___ with history
of HTN, HLD, and anxiety who presents for evaluation of possible
NSTEMI and amnesia in the setting of a fishing trip. 

He reports that he was fishing with friends, and does not
remember getting in the car to go to the beach, with the next
thing that he remembers being his hospital course ___ hours
later). According to his friends, he was slightly confused,
repeating some questions and behaviors, and complained of a bad
headache during his amnestic period. After reeling in a large
fish, he reportedly put his hand on his chest and tapped, which
he thinks corresponds to having felt palpitations. He did not
report any additional symptoms, specifically no chest pain. He
was brought to ___, where he was 
evaluated
with a negative CT head, CTA head and neck, but was found to 
have
an elevated troponin at 0.14, with a 3-hour repeat at 0.09. 
Given
the elevated troponin and the possible need for neurology
consultation as well, he was transferred here. He given ASA 324
mg and started on Lovenox for possible NSTEMI given the elevated
troponins prior to transfer.

Of note, patient denied past similar episodes of amnesia. Does
report palpitations when stressed, and has had past ECGs in
___, which were reportedly normal. He has reportedly also
had a stress test in the past (appx ___ years) but cannot specify
what symptoms prompted his doctor to order this. He does not
recall the result.

Here, he endorses some soreness of his left shoulder (patient 
did
report catching a large bluefish during his fishing trip), with
no associated fever, chills, productive cough, shortness of
breath, lightheadedness, palpitations. Recently changed to
amlodipine-benzapril med 2wks prior. Also discontinued
fluvastatin 80 mg several weeks ago due to myalgias.

In the ED initial vitals were T 98.4F, HR 73, BP 134/87, RR 16,
O2 sat 98% RA. Initial labs were notable for normal CBC and
chem-7, INR 1.2, and downtrend in troponin-T to 0.05. He was
given IV ketorolac 15mg x1, 1L NS, atorvastatin 80mg x1, and
started on heparin gtt. EKG demonstrated NSR at ventricular rate
of 66 BPM, normal axis and intervals, without evidence of ST-T
changes to suggest ischemia, however Q waves are present in aVF
and III (unclear if new or old). Neurology was consulted and 
felt
that the patient's presentation was possibly consistent with
transient generalized amnesia and recommended EEG and MRI with
contrast. The patient was subsequently admitted to Cardiology 
for
further management. 

On the floor, he feels well. He is continued on a heparin drip.
He is curious about whether he has had a heart attack. No CP,
SOB, diaphoresis, nausea, or palpitations. No numbness, 
tingling,
focal weakness, vision changes, or word finding difficulty. His
daughter is present at bedside and denies any unusual behavior.

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  
- HLD
2. CARDIAC HISTORY  
- Unknown. Reports stress test ___ years ago without abnormality
as well as EKGs normal in past several years.
3. OTHER PAST MEDICAL HISTORY  
- Insomnia
 
Social History:
___
Family History:
HTN in mother. CHF in father. ___ arrhythmia 
(non-lethal)
on mother's side. Grandmother died young, possibly of cerebral
hemorrhage.  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
==============================  
VS: ___ 1731 Temp: 99.7 PO BP: 158/69 HR: 81 RR: 18 O2 sat:
94% O2 delivery: RA
GENERAL: Well developed, well nourished middle aged male in NAD.
Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP not elevated.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs,
or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatosplenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
eripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAM
=========================
Vitals: ___ 0332 Temp: 97.7 AdultAxillary BP: 155/79 L 
Lying
HR: 63 RR: 17 O2 sat: 96% O2 delivery: Ra 
Telemetry:  NSR 
General:  WDWN middle aged male in NAD
HEENT:  MMM, EOMI, PERRL
Lungs:  Normal WOB on RA. LCATB, no wheezing, rhonchi, or rales.
CV:  RRR, normal s1, s2. No murmurs, rubs, or gallops.
Abdomen:  soft, nontender
Ext:  warm, well perfused. 2+ peripheral pulses. No ___ edema.
 
Pertinent Results:
ADMISSION LABS
================
___ 10:50AM BLOOD WBC-7.1 RBC-4.96 Hgb-16.1 Hct-47.4 MCV-96 
MCH-32.5* MCHC-34.0 RDW-13.2 RDWSD-46.4* Plt ___
___ 10:50AM BLOOD Neuts-68.2 Lymphs-18.6* Monos-12.1 
Eos-0.7* Baso-0.3 Im ___ AbsNeut-4.83 AbsLymp-1.32 
AbsMono-0.86* AbsEos-0.05 AbsBaso-0.02
___ 10:50AM BLOOD ___ PTT-32.0 ___
___ 10:50AM BLOOD Glucose-103* UreaN-9 Creat-0.7 Na-144 
K-3.9 Cl-103 HCO3-26 AnGap-15
___ 10:50AM BLOOD cTropnT-0.05*
___ 06:00AM BLOOD Calcium-8.6 Phos-3.7 Mg-2.0
___ 06:00AM BLOOD TSH-1.7

DISCHARGE LABS
===============
___ 07:35AM BLOOD WBC-4.4 RBC-4.90 Hgb-15.5 Hct-47.6 MCV-97 
MCH-31.6 MCHC-32.6 RDW-13.0 RDWSD-46.5* Plt ___
___ 07:35AM BLOOD Glucose-86 UreaN-12 Creat-0.7 Na-143 
K-4.2 Cl-102 HCO3-28 AnGap-13
___ 07:35AM BLOOD Calcium-8.9 Phos-3.6 Mg-2.0

IMAGING
=======
___ TTE
CONCLUSION:
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is no evidence for an atrial septal 
defect by 2D/color Doppler. The estimated right atrial pressure 
is ___ mmHg. There is
normal left ventricular wall thickness with a normal cavity 
size. There is mild regional left ventricular systolic 
dysfunction with hypokinesis of the inferoseptum and inferior 
walls (see schematic) and 
preserved/normal contractility of the remaining segments. The 
visually estimated left ventricular ejection fraction is 45-50%. 
There is no left ventricular outflow tract gradient at rest or 
with Valsalva. No ventricular septal defect is seen. Normal 
right ventricular cavity size with normal free wall motion. The 
aortic sinus is mildly dilated with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal. There 
is no evidence for an aortic arch coarctation. The aortic valve 
leaflets (3) appear structurally normal. There is no aortic 
valve stenosis. There is no aortic regurgitation. The mitral 
valve leaflets are mildly thickened with no mitral valve 
prolapse. There is trivial mitral regurgitation. The tricuspid 
valve leaflets appear structurally normal. There is mild [1+] 
tricuspid regurgitation. The pulmonary artery systolic pressure 
could not be estimated. There is no pericardial effusion.
IMPRESSION: Normal left ventricular wall thickness with normal 
cavity size and mild regional systolic dysfunction c/w CAD in an 
RCA distribution. Mild tricuspid regurgitaiton.

___ MRI HEAD
IMPRESSION: 1. No evidence of infarction or acute intracranial 
hemorrhage. 

___ PMIBI STRESS TEST
INTERPRETATION: This ___ year old man with recent NSTEMI and LVEF 
of 
45% in the setting of acute amnesia with a history of HTN, HLD 
and 
palpitations was referred to the lab for evaluation. The patient 
was 
infused with 0.4mg/5ml of regadenoson over 20 seconds followed 
immediately by isotope infusion. No arm, neck, back or chest 
discomfort 
was reported by the patient throughout the study. There were no 
significant ST segment changes during the infusion or in 
recovery. The 
rhythm was sinus with no ectopy. Appropriate hemodynamic 
response to 
the infusion and recovery. 
IMPRESSION: No anginal type symptoms or ST segment changes. 
Nuclear 
report sent separately. 

 
Brief Hospital Course:
PATIENT SUMMARY
=================
___ man with PMH HTN and anxiety who presented as transfer from 
OSH for amnesia concerning for total global amnesia, 
incidentally noted to have elevated troponins with TTE and EKG 
evidence of prior RCA distribution MI. pMIBI showed normal 
perfusion without any defects. Neurology workup revealed normal 
EEG and brain MRI. 

ACUTE ISSUES
============
# Troponin elevation
Patient with HTN and HLD, transferred from OSH with troponin
increased to 0.15 at OSH, already downtrended. Incidentally 
noted
in the setting of work up for general amnesia, abnormal 
behavior.
EKG with Q waves in leads III, aVF, and TTE with inferior wall 
hypokinesis, concerning for previous RCA territory infarct. ___ 
also have had a type II NSTEMI in the setting of 
tachycardia/arrhythmia. Loaded with aspirin and started on 
heparin gtt, which was later stopped due to low suspicion of 
active acute coronary syndrome. pMIBI showed no perfusion 
defect. Would recommend following up with cardiologist as 
outpatient and consideration of link/loop recorder for 
surveillance of arrhythmias as none were observed while on 
telemetry during admission.

# Amnesia: 
Patient presented with episode of memory loss of ___ hours
duration with unusual behavior around time of physical exertion.
Patient with no neuro history, only anxiety and insomnia. 
Episode
most consistent with transient global amnesia per neurology.
Neurological exam normal. Neurology saw patient in ED and
recommended extended routine EEG, MRI brain, which were both 
unremarkable. Neurology thought episode was most likely due to 
transient global amnesia.

CHRONIC ISSUES
================
#Anxiety- Patient was continued on home amitriptyline, but we 
held his benzodiazepine in the setting of recent altered mental 
status.

#CAD, #Prior MI, #HLD- Patient was restarted on a statin, 
atorvastatin 40 mg due to evidence of prior MI. Also started on 
ASA 81 mg and metoprolol due to hypokinetic area on echo.

TRANSITIONAL ISSUE 
================
[] Will need long term follow up with a cardiologist 
[] Recommend Linq device or other long term cardiac event 
monitor to rule out occult arrhythmia 
[] Continue ASA 81 mg, statin, low dose betablocker and ACE-I 

#CODE: full
#CONTACT: wife ___ cell: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amlodipine-benazepril ___ mg oral DAILY 
2. Amitriptyline 10 mg PO QHS 
3. ChlordiazePOXIDE 10 mg PO QHS 
4. Lumigan 0.03% Ophth  (*NF*) 1 drop Other DAILY 
5. Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic (eye) 
DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
daily Disp #*15 Tablet Refills:*0 
4.  Amitriptyline 10 mg PO QHS  
5.  amlodipine-benazepril ___ mg oral DAILY  
6.  Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic (eye) 
DAILY  
7.  Lumigan 0.03% Ophth  (*NF*) 1 drop Other DAILY  
8. HELD- ChlordiazePOXIDE 10 mg PO QHS  This medication was 
held. Do not restart ChlordiazePOXIDE until you talk to your 
doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Transient Global Amnesia
Type II Non-ST Elevation Myocardial Infarction

SECONDARY DIAGNOSES
Hypertension
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because of an episode of anmesia (not 
remembering) and because you were found to have elevated cardiac 
markers in your blood work.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-  You were started on a blood thinning medication through an IV 
for a short time, but it was discontinued after reviewing the 
data and deciding that you were not having an active heart 
attack. 
-  You were seen by the neurology team and had lots of testing 
for your episode of anmesia. The workup showed no abnormalities 
in the MRI of your brain or the EEG (which looks at electrical 
activity in your brain).
-  You had two imaging studies of your heart. The ultrasound 
showed a small area that wasn't squeezing normally (likely due 
to a heart attack that happened in the past). The pharmacologic 
stress test was normal. 

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
-  Please establish care with a cardiologist and follow up with 
your PCP ___ ___ weeks.
-  Please take all medicines as prescribed. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  
 
Followup Instructions:
___